US08039469B2
Step 5: Preparation of 1-{4-[4-(3,5-dimethylmorpholin-4-yl)-6-{4-[(methylcarbamoyl)amino]phenyl}-1,3,5-triazin-2-yl]phenyl}-3-pyridin-3-ylurea
The title compound was prepared by following the procedure of example 462 step 7 using 1-(4-(4-(4-aminophenyl)-6-(3,5-dimethylmorpholino)-1,3,5-triazin-2-yl)phenyl)-3-methylurea and phenyl pyridin-3-ylcarbamate. Yield 77 mg, 6% yield.

reactant | 1-(4-(4-(4-aminophenyl)-6-(3,5-dimethylmorpholino)-1,3,5-triazin-2-yl)phenyl)-3-methylurea | NC1=CC=C(C=C1)C1=NC(=NC(=N1)N1C(COCC1C)C)C1=CC=C(C=C1)NC(=O)NC | C23H27N7O2
reactant | phenyl pyridin-3-ylcarbamate | N1=CC(=CC=C1)NC(OC1=CC=CC=C1)=O | C12H10N2O2
product | 1-{4-[4-(3,5-dimethylmorpholin-4-yl)-6-{4-[(methylcarbamoyl)amino]phenyl}-1,3,5-triazin-2-yl]phenyl}-3-pyridin-3-ylurea | 6% yield | CC1N(C(COC1)C)C1=NC(=NC(=N1)C1=CC=C(C=C1)NC(NC)=O)C1=CC=C(C=C1)NC(=O)NC=1C=NC=CC1 | C29H31N9O3
